US04837319
2-hydroxy-3-propyl-5,6,7,8-tetrahydroquinoxaline
1,2-cyclohexanedione (5.4 g, 48 mM) was added all at once to a methanol solution (80 ml) of norvalineamide hydrochloride (6.1 g, 40 mM) at -30° C., and aqueous 12.5N NaOH (8 ml) was added dropwise thereto. The reaction mixture was stirred at -30° C. for 30 mins., cooling was removed, and the mixture stirred to room temperature for 3 hours. Conc. hydrochloric aicd (10 ml) was added to the reaction mixture under ice-cooling, sodium bicarbonate (8 g) was added after 10 mins., the methanol then being distilled off in vacuo. The residue was extracted with chloroform, and the extract washed with water, dried with anhydrous sodium sulfate and concentrated in vacuo. The residue was washed with acetone and recrystallized from acetone to obtain the product as colorless crystals (3.8 g., yield: 50%, m.p.: 131°-133° C.).

reactant | 1,2-cyclohexanedione | 48 mM, 5.4 g | C1(C(CCCC1)=O)=O | C6H8O2
reactant | norvalineamide hydrochloride | 40 mM, 6.1 g | Cl.N[C@@H](CCC)C(=O)N
reactant | NaOH | 12.5N, 8 ml | [OH-].[Na+]
solvent | methanol | 80 ml | CO | CH4O
product | 2-hydroxy-3-propyl-5,6,7,8-tetrahydroquinoxaline | 3.8 g, yield: 50% | OC1=NC=2CCCCC2N=C1CCC | C11H16N2O
